Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
fragrances
 
Attending: ___
 
Chief Complaint:
Lumbar Spinal Stenosis. 
 
Major Surgical or Invasive Procedure:
___ - LAMINECTOMIES & FUSION L4-L5 

 
History of Present Illness:
Ms. ___ is a ___ pleasant female.  She had a fall
about ___ years ago and she started having low back pain
radiating to the left leg.  Left leg is the major problem, but
low back pain especially with weight and loading is getting much
worse.  She also has some problems with her left hip.  Epidural
steroid injections initially lasted for two to three months. 
Now, they do not last more than two to three weeks.  She has 
done
physical therapy twice so far and it relieves temporarily, but
then symptoms are coming back.  No bowel or bladder problems. 
Got an MRI of the spine and she is coming for a neurosurgical
evaluation.  Good strength in both lower extremities except the
left L4 is ___.  SLR negative for radiculopathy.  Sensory is
normal to light touch.  She does feel some pain and numbness on
the left L4 distribution, however.  Range of motion of the hips
is eliciting some pain on the hip on the left, but nothing on 
the
right.  SI joints are fine.  I reviewed the MRI of her lumbar
spine and it clearly shows about 10-mm spondylolisthesis at
L4-L5, which is clearly causing moderate central canal stenosis
and compression of the exiting L4 nerve roots as well as the L5
nerve roots.  Flexion/extension x-rays of her spine that were
done about a year ago showed 11 mm slip, which is an angulation
that changes from flexion to extension, which is indicating
instability.  At this point, the patient will definitely benefit
from L4-L5 laminectomies and fusion.  Risks and benefits were
discussed and she wants to go ahead with that for ___ as
proposed.  We will take care of it.
 
Past Medical History:
-lumbar degenerative joint disease 
-arthritis
-gout
-laparotomy for ectopic pregnancy
-LTL
 
Social History:
___
Family History:
NC.
 
Physical Exam:
PHYSICAL EXAMINATION ON DISCHARGE:

Gen - NAD, NCAT, AxO x3
Neuro/MSK -
PERRLA, EOMI, CN2-12 intact
BUE - 
Strength ___ throughout, SILT in all distributions, warm and 
well perfused

BLE - 
Strength ___ throughout w/ ___ L IP, hamstring, SILT in all 
distributions, warm and well perfused, improved radiculopathic 
pain on L side but still present 
 
Pertinent Results:
___ - Lumbar Spine X-Ray:
The available images show steps related to posterior 
decompression and 
stabilization at L4-L5.  Pedicle screws and vertical rods are 
in-situ on the last available image.  There is at least grade 1 
anterolisthesis of L4 on L5, similar in degree when compared to 
the preoperative MRI.  Moderate disc space narrowing at this 
level.  No fracture seen.  Please see the operative report 
further details. 

___ - Lumbar Spine X-Ray:
Postsurgical changes. 
Grade 1 anterolisthesis of L4 with respect to L5 and L4-5 disc 
space narrowing 
noted. 

  

___ 10:26PM   WBC-13.3*# RBC-3.99 HGB-11.9 HCT-37.8 MCV-95 
MCH-29.8 MCHC-31.5* RDW-14.3 RDWSD-49.9*
___ 10:26PM   PLT COUNT-193
 
Brief Hospital Course:
Lumbar Spinal Stenosis: The patient was taken to the operating 
room on the day of admission, ___ and underwent a L4-5 
laminectomy and fusion. Intraoperatively, the patient sustained 
a CSF leak. A hemovac was placed. The hemovac was removed on 
___. A LSO brace is at bedside. The foley catheter was 
discontinued. On ___ she begin experiencing asymptomatic 
tachycardia in the 110-130s.  The patient continued to receive 
oxycodone ___ mg q4 PRN for pain and 1000 mg acetaminophen q8 
PRN. She was bolused twice with 500 cc NS on ___ as she was dry 
continued to be tachycardic in the 100s.  She continues to have 
residual radiculopathic pain in her LLE but states it has been 
improving daily.  

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q8H 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth three times a day Disp #*120 Tablet 
Refills:*1 
2.  Bisacodyl 10 mg PO/PR DAILY 
RX *bisacodyl [Dulcolax (bisacodyl)] 5 mg 2 tablet(s) by mouth 
once a day Disp #*60 Tablet Refills:*0 
3.  Cyclobenzaprine 5 mg PO Q8H 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth three times a day 
Disp #*45 Tablet Refills:*1 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tablet by 
mouth twice a day Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Lumbar Spinal Stenosis. 

 
Discharge Condition:
XXX
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions

Spinal Fusion

Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with staples or sutures. You will need 
suture/staple removal. 
•Do not apply any lotions or creams to the site. 
•Please keep your incision dry until removal of your 
sutures/staples.
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•*** You must wear your brace at all times when out of bed. You 
may apply your brace sitting at the edge of the bed. You do not 
need to sleep with it on. 
•*** You must wear your brace while showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___